US05113021
Dehydrolinalool (60.8 g, 0.4 mol), bromoform (151.6 g, 0.6 mol) and 0.8 g of triethylbenzylammonium chloride are placed in a reaction flask and 64 g of a 50% sodium hydroxide solution are added during 30 minutes. The reaction is exothermic and the mixture is therefore cooled with ice. After stirring the mixture at room temperature for 21.5 hours the same amounts of bromoform and triethylbenzylammonium chloride are again added. The reaction becomes exothermic and is cooled with ice. The mixture is left to react at 0° for a further 4 hours, poured onto ice and extracted with methylene chloride. The organic phases are washed neutral, dried and evaporated. In this manner there are obtained 109.5 g (84%) of 5-(2'2'-dibromo-3'3'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol.

reactant | Dehydrolinalool | 0.4 mol, 60.8 g | CC(=CCCC(C)(C#C)O)C | C10H16O
reactant | bromoform | 0.6 mol, 151.6 g | C(Br)(Br)Br | CHBr3
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | triethylbenzylammonium chloride | 0.8 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 5-(2'2'-dibromo-3'3'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol | 109.5 g, 84% | BrC1(C(C1(C)C)CCC(C#C)(O)C)Br | C11H16Br2O
